US05958870
To a mixture of N-dodecyl-N-(2-methoxy-2-oxoethyl)glycine methyl ester (6.59 g, 20 mmol, 1 eq) in toluene (80 ml) under argon was slowly added some sodium methoxide (0.27 g, 0.005 mol, 2*0.125 eq) and geraniol (7.3 ml, 42 mmol, 2*1.05 eq). The mixture was heated under vacuum (10 mm Hg) and the methanol produced by the transesterification reaction was distilled with toluene over two hours after which the reaction appeared completed by 1H NMR. Any remaining toluene was evaporated under vacuum. Diethyl ether was added (200 ml) and the mixture stored at 4° C. for one hour prior to filtration. The filtrate was then concentrated under vacuum yielding to the expected N-dodecyl-N-(2-geranyloxy-2-oxoethyl)glycine geranyl ester as a light brown oil (quantitative yield).

reactant | N-dodecyl-N-(2-methoxy-2-oxoethyl)glycine methyl ester | 20 mmol, 6.59 g, 1 eq | COC(CN(CC(=O)OC)CCCCCCCCCCCC)=O | C18H35NO4
reactant | sodium methoxide | 0.005 mol, 0.27 g, 0.125 eq | C[O-].[Na+]
reactant | geraniol | 42 mmol, 7.3 ml, 1.05 eq | CC(C)=CCC\C(\C)=C\CO | C10H18O
reactant | methanol | CO | CH4O
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | N-dodecyl-N-(2-geranyloxy-2-oxoethyl)glycine geranyl ester | quantitative yield | C(\C=C(/C)\CCC=C(C)C)OC(CN(CC(=O)OC\C=C(/C)\CCC=C(C)C)CCCCCCCCCCCC)=O | C36H63NO4
